Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Keflex / 
Erythromycin Base / Tetanus
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Nausea, and Vomiting
Diverticulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Time of Encounter: 23:30pm ___

___ female with history of diverticulitis and hypertension was 
admitted with diverticulitis and inability to take oral intake. 

She reports that she woke up ___ hours ago with abdominal 
pain, nausea, and vomiting. She describes her abdominal pain as 
the following: character is stabbing and like her previous 
episode of diverticulitis, onset was sudden location is below 
her umbilicus, duration has been intermittent, and worsened with 
activity, movement, or sitting or standing for too long. She 
presented to the ED on ___ at which time a CT abdomen 
revealed sigmoid diverticulitis. She was eager to leave the 
hospital and was tolerating oral intake; so she was discharged 
to complete a course of cipro and flagyl. Since discharge from 
the ED, she reports that she initially felt better however over 
the last 12 hours, her symptoms worsened again with increasing 
nausea, vomiting, and abdominal pain. 

She does note however that she has not been feeling like herself 
over the last one month. She went to ___ to visit her 
mother and returned in early ___. Since then, she reports that 
her bowel movements have been less regular and she has had daily 
low grade fevers, night sweats, and subjective chills. 

Upon presentation to the ED, temp 98.6, HR 89, BP 140/83, RR 20, 
and pulse ox 99% on room air. Exam was notable for being tender 
to palpation in LLQ with no rebound. Guiac exam was negative. 
She spiked a temperature to 101.7 prior to leaving the ED. Labs 
were notable for K 5.3 but were grossly hemolyzed. CT Abd/Pelvis 
from ___ ED visit was notable for acute sigmoid 
diverticulitis. She was given .5mg IV dilaudid x 2, zofran, 
cipro, and tylenol. Flagyl was ordered but had not been given 
yet. 

Review of systems:  
(+) Per HPI. abdominal pain, nausea, and vomiting  
(-) Denies pain, fever, chills, night sweats, weight loss, 
headache, sinus tenderness, rhinorrhea, congestion, cough, 
shortness of breath, chest pain or tightness, palpitations, 
constipation, change in bladder habits, dysuria, arthralgias, or 
myalgias.
 
Past Medical History:
1. Benign Hypertension
2. h/o Diverticulitis
- unsure exactly when but on the order of ___ years ago
3. s/p TAH in ___ for fibroids
4. s/p CCY 
5. s/p Appy
 
Social History:
___
Family History:
Mother - ___ problems, unsure if hypo or hyperthyroid
Sister - ___ Cancer
Brother - ___ Cancer 
 
Physical Exam:
T 99.6 / BP 126/83 / HR 88 / RR 18 / Pulse ox 99% on room air / 
Weight 224.7 lbs
Gen: NAD, resting comfortably in bed, speaking clearly, very 
pleasant
HEENT: Clear OP, MMM  
NECK: Supple, No LAD, No JVD  
CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops  
LUNGS: CTA, BS ___, No W/R/C  
ABD: hyperactive bowel sounds, soft, tender in RLQ and LLQ with 
no rebound or guarding 
BACK: No CVA tenderness
EXT: No edema. 2+ DP pulses ___  
SKIN: No lesions  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. ___ strength 
throughout.  Normal coordination. Gait assessment deferred  
PSYCH: Listens and responds to questions appropriately, pleasant 

 
Pertinent Results:
___ - grossly hemolyzed
Na 134 / K 5.3 / Cl 99 / CO2 27 / BUN 13 / Cr 1 / BG 89
ALT 21 / AST 48 / Alk Phos 51 / TB .7 / Alb 3.8 / Lipase 47
WBC 5.6 / Hct 37.3 / Plt 316
N 75 / L 17 / M 4 / E 4 / B 1

___ 
Urine UCG negative
UA - yellow, clear, 1.022, pH 8, neg urobili, neg bili, neg 
leuks, trace blood, neg nitr, 30 prot, neg gluc, neg ketones, 
___ RBCs, ___ WBCs, few bacteria, no yeast, 0 epis
Lactate 2.2

MICROBIOLOGY:
___ Blood Cx x 2 pending

STUDIES:
___ CT Abd/Pelvis - 
1. Acute sigmoid diverticulitis, with small-to-moderate amount 
of free fluid within the pelvis, without evidence of a drainable 
fluid collection. 
2. Hypodense masses within the right lobe of the liver and dome 
could 
represent early developing abscesses, though without 
organization to be 
drainable. These are incompletely characterized on this 
monophasic study.  
If clinically stable, follow-up with an MRI in ___ days should 
be performed. 

 
Brief Hospital Course:
___ female with history of diverticulitis and hypertension was 
admitted with sigmoid diverticulitis. 

1. Sigmoid Diverticulitis 
Patient's CT abd revealed acute sigmoid diverticulitis, which is 
consistent with patient's history and exam. Her subacute 
symptoms over the last month however are somewhat more puzzling. 
Infection or malignancy are possible. 
- continue IV cipro / flagyl
- prn zofran for antiemetics and morphine for pain control
- NPO with IVF
- advance diet as tolerated
- send stool studies 
- follow-up blood cultures
- would likely benefit from colonoscopy as an outpatient; she 
reports having had two colonoscopies in the past but she cannot 
remember why. 
- check lactate in the AM

2. Liver Lesions
Etiology is unclear, would likely benefit from outpatient 
follow-up. 
- outpatient follow-up

3. Benign Hypertension: Stable
- continue beta blocker

4. Obstructive Sleep Apnea: Stable
- husband to bring CPAP on ___

# FEN: NPO with IVF; replete electrolytes prn 
# PPx: heparin SC
# CODE: presumed FULL CODE
# COMM: Patient; Husband ___ ___
# ___: pending further improvement in pain and symptoms 

Patient's PCP was contacted by email to alert him of admission. 

In addition to the above summary per the primary medical team, 
the patient was admitted to the surgical service for management 
of her diverticulitis. She was kept NPO until her abdominal pain 
was completely resolved at which point she was advanced to a 
general diet. Her pain resolved, she was afebrile and she had no 
leukocytosis throughout her admission, and so was discharged to 
home with plan to follow up in the clinic to readdress her 
surgical options, which were explained to the patient during her 
admission. 

In regards to her identified liver lesions, the patient had a CT 
that showed two hypodense lesions. These were reexamined using 
an MRI, which was determined to be consistent with hemangiomas, 
and so they would not require acute management. 
 
Medications on Admission:
1. Atenolol 100mg PO daily
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
3. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours): take until prescription finished .
___ Tablet(s)* Refills:*0*
4. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day): take until prescription finished.
___ Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute sigmoid diverticulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call or come to the Emergency Room if you experience 
fever >101.5/chills, persistent abdominal pain, nausea, 
vomiting, diarrhea, or any symptoms of acute concern. 

 
Followup Instructions:
___